US05817774
1-[2-(2-Pyridinyl)-2-oxoethyl]pyridinium bromide, (3d)
2-Acetylpyridine (100 mmol) is treated with bromine (6.2 mL, 0.12 mol) at reflux in 200 mL of CHCl 3 for 45 min. The solution is cooled to room temperature then washed with dilute aqueous NaHCO3 /Na2S2 O3. The organic phase is dried over Na2SO4, filtered, and evaporated. The residue is dissolved in 200 mL of tetrahydrofuran (THF) and 30 mL of pyridine is added. The resulting solution is refluxed for 30 min. The mixture is cooled and filtered to give the desired product. The nuclear magnetic resonance (NMR) and infrared (IR) spectra are consistent with the assigned structure and the product is homogeneous by TLC.

reactant | 2-Acetylpyridine | 100 mmol | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | bromine | 0.12 mol, 6.2 mL | BrBr | Br2
product | 1-[2-(2-Pyridinyl)-2-oxoethyl]pyridinium bromide | [Br-].N1=C(C=CC=C1)C(C[N+]1=CC=CC=C1)=O | InChI=1S/C12H11N2O.BrH/c15-12(11-6-2-3-7-13-11)10-14-8-4-1-5-9-14;/h1-9H,10H2;1H/q+1;/p-1
